US05928999
4-Chloro-3-(4-chloro-3-hydroxymethylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.143)
6.3 ml (16 mmol) of 10% strength sodium hydroxide solution were added dropwise to a solution of 3.2 g (8.8 mmol) of 3-(3-acetoxymethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole in 10 ml of dioxane and 10 ml of water. The mixture was stirred for 1 hour and then neutralized with 3N hydrochloric acid. The product was extracted from the aqueous phase with ethyl acetate, after which the organic phase was dried over magnesium sulfate and then concentrated. The crude product thus obtained was purified by column chromography on silica gel (eluent: hexane/ethyl acetate=4:1). Yield: 1.3 g.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-(3-acetoxymethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 8.8 mmol, 3.2 g | C(C)(=O)OCC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C14H12Cl2F2N2O3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 4-Chloro-3-(4-chloro-3-hydroxymethylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)CO | C12H10Cl2F2N2O2
